US07034015B2
N-(2-{[3-Chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-N′-(2,3-dihydroxypropyl)succinamide (Compound 206)
The reaction and work up was conducted as described in the preparation of compound 204. Starting compounds were N-(2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid (100 mg, 0.46 mmol) (disclosed in WO 01/05746) and 3-aminopropane-1,2-diol (23 mg, 0.25 mmol). The crude product was purified by flash chromatography using DCM/MeOH/NH3(aq.) 90:10:0.5 as the eluent to afford the title compound as a yellow solid.

reactant | N-(2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid | 0.46 mmol, 100 mg | ClC=1C=C(C=CC1C(C1=C(C=CC=C1)C)=O)NC1=C(C=CC=C1)NC(CCC(=O)O)=O | C24H21ClN2O4
reactant | 3-aminopropane-1,2-diol | 0.25 mmol, 23 mg | NCC(CO)O | C3H9NO2
product | N-(2-{[3-Chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-N′-(2,3-dihydroxypropyl)succinamide | ClC=1C=C(C=CC1C(C1=C(C=CC=C1)C)=O)NC1=C(C=CC=C1)NC(CCC(=O)NCC(CO)O)=O | C27H28ClN3O5
